US05057614
2.67 g of di(t-butyl)dicarbonate and 1.24 g of triethylamine were added to a solution of 2.3 g of 1-(3-methylaminopropyl)indole in 40 ml of dichloromethane at 0° C. After 4 hours the mixture was washed with a saturated sodium bicarbonate solution, dried and evaporated to give 3.68 g of 1-[3-[(t-butoxycarbonyl)(methyl)amino]propyl]indole.

reactant | di(t-butyl)dicarbonate | 2.67 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.24 g | C(C)N(CC)CC | C6H15N
reactant | 1-(3-methylaminopropyl)indole | 2.3 g | CNCCCN1C=CC2=CC=CC=C12 | C12H16N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-[3-[(t-butoxycarbonyl)(methyl)amino]propyl]indole | 3.68 g | C(C)(C)(C)OC(=O)N(CCCN1C=CC2=CC=CC=C12)C | C17H24N2O2
